US08048862B2
2-Phenyl-4-chloro-7-methoxy-quinoline can be prepared according to Scheme XXXXI. Ethyl benzoylacetate and m-anisidine can reacted together under thermal conditions to afford 2-phenyl-4-hydroxy-7-methoxy-quinoline in the presence of an acid, such as hydrochloric acid and the like. 2-Phenyl-4-hydroxy-7-methoxy-quinoline can be converted to 2-phenyl-4-chloro-7-methoxy-quinoline using a chlorinating agent. For example, the chlorinating can be P(O)Cl3, P(O)Cl3 with PCl5, and the like.

reactant | 2-Phenyl-4-chloro-7-methoxy-quinoline | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C(=C1)Cl)OC | C16H12ClNO
reactant | Ethyl benzoylacetate | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | m-anisidine | COC1=CC(=CC=C1)N | C7H9NO
product | 2-phenyl-4-hydroxy-7-methoxy-quinoline | C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C(=C1)O)OC | C16H13NO2
